* c:\users\91809\esim-workspace\2bit_dac\2bit_dac.cir
.options wnflag=1

.include switch.sub

r4  /vdd net-_r3-pad1_ 250
r3  net-_r3-pad1_ net-_r2-pad1_ 250
r2  net-_r2-pad1_ net-_r1-pad1_ 250
r1  net-_r1-pad1_ gnd 250
xswitch1  net-_r3-pad1_ net-_r2-pad1_ /vdd /d0 net-_switch1-pad4_ switch
xswitch2  net-_r1-pad1_ gnd /vdd /d0 net-_switch2-pad4_ switch
xswitch3  net-_switch1-pad4_ net-_switch2-pad4_ /vdd /d1 /vout switch
* u1  /vdd /d0 /d1 /vout port

Vdd /vdd 0 3.3
Vd0 /d0 0 pulse(0 1.8 0ns 1ps 1ps 5us 10us)
Vd1 /d1 0 pulse(0 1.8 0ns 1ps 1ps 10us 20us)

.tran 1us 20us

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc

.control
run 
plot /d0 /d1 /vout
.endc

.end
